US05719141
2.3 g of a potassium hydride suspension (20% in oil) are added to a solution of 2.6 g of 1-benzyl-3(R,S)-hydroxymethyl-1,2,3,4-tetrahydroquinoline in 30 ml of tetrahydrofuran at 0° C., while stirring, and 1.9 ml of methyliodide are then added. After 1 h, the reaction mixture is concentrated and the residue is purified over 160 g of silica gel with a 20:1 mixture of hexane and ethyl acetate. 1-Benzyl-3(R,S)-methoxymethyl-1,2,3,4-tetrahydroquinoline is obtained as a yellow solid: Rf (20:1 mixture of hexane and ethyl acetate)=0.32. A solution of 2.9 g of the product thus obtained in 30 ml of tetrahydrofuran is hydrogenated in the presence of 0.6 g of palladium-on-charcoal under the customary conditions. Purification of the crude product over 80 g of silica gel with methylene chloride as the eluting agent gives 3(R,S)-methoxymethyl-1,2,3,4-tetrahydroquinoline: Rf (methylene chloride)=0.32; Rf (A)=0.56.

reactant | potassium hydride | 2.3 g | [H-].[K+]
reactant | 1-benzyl-3(R,S)-hydroxymethyl-1,2,3,4-tetrahydroquinoline | 2.6 g | C(C1=CC=CC=C1)N1CC(CC2=CC=CC=C12)CO | C17H19NO
reactant | methyliodide | 1.9 ml | CI | CH3I
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 1-Benzyl-3(R,S)-methoxymethyl-1,2,3,4-tetrahydroquinoline | C(C1=CC=CC=C1)N1CC(CC2=CC=CC=C12)COC | C18H21NO
